US04801717
4-chloro-benzonitrile was reacted with nitric acid to obtain 3-nitro-4-chloro-benzonitrile melting at 100°-101° C. which was reacted with N-hydroxy-phthalimide to obtain 0-(4-cyano-2-nitrophenoxy)-phthalimide melting at 233°-234° C. The latter was reacted to obtain 0-(4-cyano-2-nitro-phenyl)-hydroxylamine melting at 154°-155° C.

reactant | 4-chloro-benzonitrile | ClC1=CC=C(C#N)C=C1 | C7H4ClN
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 3-nitro-4-chloro-benzonitrile | [N+](=O)([O-])C=1C=C(C#N)C=CC1Cl | C7H3ClN2O2
